US08614206B2
A solution of tert-butyl 5-azido-3-hydroxy-3-methylazepane-1-carboxylate (0.8 g, 3 mmol) in DCM (15 mL) and trifluoroacetic acid (5 mL) was stirred at room temperature for 1.5 hr and then concentrated under reduced pressure. The residue was dissolved in the minimum volume of DCM, loaded onto an SCX column, washed with DCM and MeOH and eluted with 1 N ammonia in MeOH. The solvent was removed under reduced pressure. To a solution of the residue in anhydrous DMSO (10 mL) was added 5-chloro-1-methyl-4-nitro-1H-pyrazole (574 mg, 3.56 mmol) and potassium fluoride (675 mg, 12.7 mmol). The mixture was heated at 70° C. for 16 hr under nitrogen, then cooled and poured into water (300 mL). The mixture was extracted with EtOAc (3×150 mL) and the combined organic layers were washed with water (100 mL) and brine (50 mL), separated, dried over MgSO4 and concentrated to give a brown gum. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol as a mixture of four diastereoisomers (0.38 g, 47% over 2 steps). 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 4.12-3.90 (m, 1H), 3.85 and 3.74 (2s, 3H), 3.60-3.40 (m, 1H), 3.40-3.30 (m, 1H), 3.25-3.10 (m, 1H), 3.00-2.60 (m, 2H), 2.30-2.10 (m, 2H), 2.00-1.70 (m, 2H), 1.35-1.15 (m, 3H). LCMS (ES+) m/z 296 (M+1).

reactant | tert-butyl 5-azido-3-hydroxy-3-methylazepane-1-carboxylate | 3 mmol, 0.8 g | N(=[N+]=[N-])C1CC(CN(CC1)C(=O)OC(C)(C)C)(C)O | C12H22N4O3
reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 3.56 mmol, 574 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | potassium fluoride | 12.7 mmol, 675 mg | [F-].[K+]
reactant | water | 300 mL | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 5-azido-3-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C)[N+](=O)[O-])(O)C | C11H17N7O3
